US04568687
N-[3-(1H-imidazol-1-yl)propyl]phthalamic acid
A mixture of 0.01 mole of phthalic anhydride, 0.01 mole of 3-(1H-imidazol-1-yl)propanamine and 30 ml. of methylene chloride was stirred at room temperature for 3 hours and concentrated. The residue was recrystallized from ethanol whereby the desired product, m.p. 160°-162° C., was obtained. By substituting 3-fluorophthalic anhydride, 4,5-dichlorophthalic anhydride, and 4-methylphthalic anhydride for the phthalic anhydride of this example, the compounds set forth in Table XX below were obtained.

reactant | phthalic anhydride | 0.01 mole | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | 3-(1H-imidazol-1-yl)propanamine | 0.01 mole | N1(C=NC=C1)CCCN | C6H11N3
reactant | 3-fluorophthalic anhydride | FC1=C2C(C(=O)OC2=O)=CC=C1 | C8H3FO3
reactant | 4,5-dichlorophthalic anhydride | ClC=1C=C2C(C(=O)OC2=O)=CC1Cl | C8H2Cl2O3
reactant | 4-methylphthalic anhydride | CC=1C=C2C(C(=O)OC2=O)=CC1 | C9H6O3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | N-[3-(1H-imidazol-1-yl)propyl]phthalamic acid | N1(C=NC=C1)CCCNC(C=1C(C(=O)O)=CC=CC1)=O | C14H15N3O3
